US07615642B2
(3R)-1-({2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)pyrrolidin-3-ol
Following the same procedure in Example 1, using 2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazole-5-sulfonyl chloride (50 mg, 0.12 mmol), N,N-diisopropylethylamine (0.1 mL, 0.48 mmol) and (R)-(−)-3-pyrrolidinol hydrochloride (23 mg, 0.19 mmol) in (1 mL) methylene chloride. The crude product was purified by LCMS using high pH column 40-70% acetonitrile gradient to give 42 mg (61% yield) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 1.43-1.52 (m, 2 H), 1.56 (s, 9 H), 1.60-1.69 (m, 3 H), 1.90-2.01 (m, 3 H), 2.09-2.21 (m, 1 H), 3.05-3.11 (m, 1 H), 3.20-3.25 (m, 2 H), 3.26-3.34 (m, 3 H), 4.13-4.18 (m, 1 H), 4.44 (d, J=7.62 Hz, 2 H), 7.81 (dd, J=8.79, 1.76 Hz, 1 H), 7.89-7.93 (m, 1 H), 8.04 (d, J=1.17 Hz, 1 H); MS (ESI) (M+H)+=455.2; Anal. Calc. for C22H31F2N3O3S+1.3 TFA+0.50H2O+0.2 CH3CN: C, 48.75; H, 5.46; N, 7.16. Found: C, 48.78; H, 5.48; N, 7.11.

reactant | 2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazole-5-sulfonyl chloride | 0.12 mmol, 50 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)S(=O)(=O)Cl | C18H23ClF2N2O2S
reactant | N,N-diisopropylethylamine | 0.48 mmol, 0.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (R)-(−)-3-pyrrolidinol hydrochloride | 0.19 mmol, 23 mg | Cl.N1C[C@@H](CC1)O
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | (3R)-1-({2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)pyrrolidin-3-ol | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)S(=O)(=O)N2C[C@@H](CC2)O | C22H31F2N3O3S
